US07951954B2
f) 4-Hydroxy-7-[1-hydroxy-2-(2-{3-[(3-hydroxy-benzylamino)-methyl]-phenyl}-ethylamino)-ethyl]-3H-benzothiazol-2-one bis-hydrochloride salt
A solution of (2-methoxymethoxy-benzyl)-[3-(2-oxo-ethyl)-benzyl]-carbamic acid tert-butyl ester (116 mg) in methanol (1 mL) was added to a solution of 7-(2-amino-1-hydroxy-ethyl)-4-hydroxy-3H-benzothiazol-2-one hydrochloride (76 mg) in methanol (5 mL), the reaction mixture was treated with acetic acid (20 mg) followed by sodium cyanoborohydride (27 mg) and the resultant mixture was stirred for 5 hours. At the end of this time concentrated aqueous ammonia (0.5 mL) was added, the solvents were then removed under reduced pressure and the residue partitioned between ethyl acetate and saturated aqueous brine. The aqueous layer was re-extracted with ethyl acetate and the combined organic layers were dried, filtered and the solvent removed under reduced pressure. The residue was dissolved in trifluoroacetic acid (5 mL) and the solution allowed to stand at room temperature for 15 minutes, the solvent was evaporated under reduced pressure and the residue azeotroped three times with acetonitrile. Purification was by HPLC on a Hichrom ACE column (50×21.2 mm) column eluting with 5-50% acetonitrile in 0.2% aqueous trifluoroacetic acid. The product was dissolved in acetonitrile (10 mL) and treated with a 4M solution of hydrogen chloride in 1,4-dioxane (2 mL). The solvents were evaporated off under reduced pressure and the residue was triturated with diethyl ether to yield the title compound (50 mg).

reactant | (2-methoxymethoxy-benzyl)-[3-(2-oxo-ethyl)-benzyl]-carbamic acid tert-butyl ester | 116 mg | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)CC=O)CC1=C(C=CC=C1)OCOC)=O | C23H29NO5
reactant | 7-(2-amino-1-hydroxy-ethyl)-4-hydroxy-3H-benzothiazol-2-one hydrochloride | 76 mg | Cl.NCC(O)C1=CC=C(C=2NC(SC21)=O)O
reactant | sodium cyanoborohydride | 27 mg | C(#N)[BH3-].[Na+]
reactant | ammonia | 0.5 mL | N | H3N
reactant | methanol | 1 mL | CO | CH4O
reactant | methanol | 5 mL | CO | CH4O
solvent | acetic acid | 20 mg | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-7-[1-hydroxy-2-(2-{3-[(3-hydroxy-benzylamino)-methyl]-phenyl}-ethylamino)-ethyl]-3H-benzothiazol-2-one bis-hydrochloride salt | 50 mg | Cl.Cl.OC1=CC=C(C2=C1NC(S2)=O)C(CNCCC2=CC(=CC=C2)CNCC2=CC(=CC=C2)O)O | InChI=1S/C25H27N3O4S.2ClH/c29-19-6-2-5-18(12-19)14-27-13-17-4-1-3-16(11-17)9-10-26-15-22(31)20-7-8-21(30)23-24(20)33-25(32)28-23;;/h1-8,11-12,22,26-27,29-31H,9-10,13-15H2,(H,28,32);2*1H
